US09056916B2
To monocrotaline (20 mg) dissolved in chloroform (5 mL) was added a solution of o-chloranil (25 mg) in chloroform (5 mL). After 5 min, TLC (Thin layer Chromatography) showed that most of starting material was consumed and the mixture was shaken vigorously with a cooled (0-5° C.) solution, which contained 700 mg KOH and 20 mg NaBH4 in 1 mL water for 10-15 sec. The organic phase was separated, immediately dried with anhydrous Na2SO4 and concentrated under reduced pressure to give dehydromonocrotaline (DHM). The chemical reaction was depicted in FIG. 21.

reactant | monocrotaline | 20 mg | C[C@H]1C(=O)O[C@@H]2CCN3[C@@H]2C(=CC3)COC(=O)[C@]([C@]1(C)O)(C)O | C16H23NO6
reactant | o-chloranil | 25 mg | C1(=C(C(=O)C(=O)C(=C1Cl)Cl)Cl)Cl | C6Cl4O2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | dehydromonocrotaline | C[C@H]1C(=O)O[C@@H]2CCN3C2=C(COC(=O)[C@]([C@]1(C)O)(C)O)C=C3 | C16H21NO6
